US09388161B2
Step 2. (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one
A solution of hydrogen chloride (4.0 N in 1,4-dioxane, 1.4 mL, 5.6 mmol) was added to a solution of (S)-tert-butyl 4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)piperidine-1-carboxylate (480 mg, 1.1 mmol) in 1,4-dioxane (3 mL). The reaction was stirred for 3 hours resulting in a white precipitate. The reaction solution was diluted with diethyl ether (10 mL) and the precipitate was collected by filtration. The filtrate was further washed with diethyl ether (10 mL), collected and dried in vacuo affording the hydrochloride salt of the title compound as a white powder. The salt was free based via neutralization in ethyl acetate with saturated aqueous sodium carbonate solution until a pH=7.5 was achieved. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo affording (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one (356 mg, 97%) as a colorless solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.96-1.06 (m, 6H), 1.11-1.26 (m, 1H), 1.38-1.61 (m, 4H), 1.66-1.89 (m, 2H), 2.20 (s, 3H), 2.16-2.28 (m, 2H), 2.52 (m, 2H), 2.67-2.80 (m, 2H), 2.83-2.94 (m, 1H), 2.99 (br d, J=12.02 Hz, 2H), 3.58-3.72 (m, 2H), 4.40-4.63 (br d, J=6.75 Hz, 1H), 7.03 (br s, 2H). MS (ESI, pos. ion) m/z 331 [M+H]+.

reactant | hydrogen chloride | 5.6 mmol, 4.0 N, 1.4 mL | Cl | ClH
reactant | (S)-tert-butyl 4-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)piperidine-1-carboxylate | 1.1 mmol, 480 mg | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C1CCN(CC1)C(=O)OC(C)(C)C)OCCC)C | C25H38N2O4
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (S)-1-(2-methyl-6-(piperidin-4-yl)-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethan-1-one | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)C1CCNCC1)C(C)=O | C20H30N2O2
